### PR TITLE
Num.npos and monotonicity of norms

### PR DESCRIPTION
**Pull request by hoheinzollern**
##### Motivation for this change

This PR adds the definition of non-positive real numbers (`x \is a Num.npos`) as well as lemmas for the monotonicity of norms (`ger0_le_norm, gtr0_le_norm, ler0_ge_norm and ltr0_ge_norm`) that motivated the addition in the first place.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/algebra/ssrnum.v [hunk 1]
```diff
@@ -829,6 +834,25 @@ Proof. by move=> x_le0; rewrite -[r in _ = r]ger0_norm ?normrN ?oppr_ge0. Qed.
...
+
+Lemma le0_ger_normr :
+  {in npos &, {mono (@normr _ R) : x y / x <= y >-> x >= y}}.
+Proof. 
+move=> x y; rewrite !nposrE => x0 y0.
+by rewrite !ler0_norm// -subr_ge0 opprK addrC subr_ge0.
+Qed.
+
+Lemma lt0_ger_normr :
+  {in Num.neg &, {mono (@Num.Def.normr _ R) : x y / x <= y >-> x >= y}}.
```
Comment (affeldt-aist) [inline mathcomp/algebra/ssrnum.v:853]: Num.Def.normr -> normr, Num.neg -> neg

**Comment by affeldt-aist** [comment]
Modulo minor cosmetics this just lacks a changelog I think.

File: mathcomp/algebra/ssrnum.v [hunk 2]
```diff
@@ -829,6 +834,25 @@ Proof. by move=> x_le0; rewrite -[r in _ = r]ger0_norm ?normrN ?oppr_ge0. Qed.
...
+Proof. by move=> x y; rewrite !negrE => /ltW x0 /ltW y0; exact: le0_ger_normr. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:854]: To be more in line with the conventions of the library, I think the `r` should be carried by the first part of the name only, e.g. `ger0_le_norm`.

**Review by CohenCyril — COMMENTED** [review]
Great! I just have a small remark

File: mathcomp/algebra/ssrnum.v (hunk 1 above)
Comment (hoheinzollern) [reply mathcomp/algebra/ssrnum.v]: Fixed in the last commit.

File: mathcomp/algebra/ssrnum.v (hunk 2 above)
Comment (hoheinzollern) [reply mathcomp/algebra/ssrnum.v]: Fixed in the last commit.

Comment (CohenCyril) [reply mathcomp/algebra/ssrnum.v]: Why the last `r` in `normr` ?

Comment (hoheinzollern) [reply mathcomp/algebra/ssrnum.v]: Missed it, now fixed :)

**Review by affeldt-aist — APPROVED** [review]
lgtm
